US06506770B1
N-(2-Nitrobenzenesulfonyl)-2-(aminomethyl)pyridine
A solution of 2-nitrobenzenesulfonylchloride (16.62 g, 0.075 mol) in dry CH2Cl2 (120 mL) was added dropwise via cannula to a stirred solution of 2-(aminomethyl)pyridine (5.41 g, 0.05 mol) and Et3N (13.9 mL, 0.10 mol) in dry CH2Cl2 (150 mL) under nitrogen. The reaction mixture was stirred for three hours at room temperature, and then quenched with water (20 mL). The aqueous layer was separated and extracted with EtOAc (5×80 mL). The combined organic extracts were dried (MgSO4) and evaporated to small volume to give a white precipitate which was collected by filtration and washed with cold CH2Cl2 to give the desired product (11.37 g, 78%) as a white solid: 1H NMR (Acetone-d6) δ4.46 (s, 2H), 7.19 (dd, 1H, J=7.4, 4.5 Hz), 7.25-7.35 (br s, 1H), 7.39 (d, 1H, J=7.7 Hz), 7.68 (ddd, 1H, J=7.7, 7.5, 1.8 Hz), 7.76-7.88 (m, 2H), 7.94 (dd, 1H, J=7.7, 1.5 Hz), 8.04 (dd, 1H, J=7.5, 1.8 Hz), 8.38 (d, 1H, J=4.5 Hz).

reactant | 2-nitrobenzenesulfonylchloride | 0.075 mol, 16.62 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2-(aminomethyl)pyridine | 0.05 mol, 5.41 g | NCC1=NC=CC=C1 | C6H8N2
reactant | Et3N | 0.10 mol, 13.9 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Nitrobenzenesulfonyl)-2-(aminomethyl)pyridine | 11.37 g, 78% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(C=CC=C1)CN | C12H13N3O4S
